US04794181
7,8-Dimethoxy-1-(4-fluorophenoxy)-2,3,4,5-tetrahydro-3-benzazepine (3.5 g, 11 m mole) of Example 42 was dissolved in 9 ml 95% formic acid and to this was added 8 ml 37% formaldehyde solution. The mixture was stirred at 75° C. for one hour, then was cooled, diluted with water and basified with sodium carbonate. The oil which separated was extracted with ether then was washed with water, dried (saturated NaCl, anhydrous MgSO4), filtered and evaporated to an oil. The oil was converted as in Example 42 to the maleate salt (3.7 g, mp 125°-135° C.). This material was recrystallized twice from isopropanol to yield 2.7 g (55%) of 7,8-dimethoxy-1-(4-fluorophenoxy)-3-methyl-2,3,4,5-tetrahydro-3-benzazepine maleate d 152°-153° C.

reactant | 7,8-Dimethoxy-1-(4-fluorophenoxy)-2,3,4,5-tetrahydro-3-benzazepine | 3.5 g | COC1=CC2=C(C(CNCC2)OC2=CC=C(C=C2)F)C=C1OC | C18H20FNO3
reactant | formaldehyde | 8 ml | C=O | CH2O
reactant | formic acid | 9 ml | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 7,8-dimethoxy-1-(4-fluorophenoxy)-3-methyl-2,3,4,5-tetrahydro-3-benzazepine maleate | 2.7 g, 55% | C(\C=C/C(=O)O)(=O)O.COC1=CC2=C(C(CN(CC2)C)OC2=CC=C(C=C2)F)C=C1OC | InChI=1S/C19H22FNO3.C4H4O4/c1-21-9-8-13-10-17(22-2)18(23-3)11-16(13)19(12-21)24-15-6-4-14(20)5-7-15;5-3(6)1-2-4(7)8/h4-7,10-11,19H,8-9,12H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
